US07179823B1
Sodium hydride (60%, oily, 310 mg) was added to a mixture of methyl 4-phenyl-3-pyrrolcarboxylate (1.20 g), 5-chloromethyl-2-(5-methyl-2-phenyl-4-oxazolylmethoxy)pyridine (1.88 g), and N,N-dimethylformamide (50 ml) at room temperature, and the mixture was stirred for 15 hours. The reaction mixture was poured into water, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to obtain methyl 1-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethyl]-4-phenyl-1H-pyrrol-3-carboxylate (2.74 g, yield: 96%) as a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:2, volume ratio).

reactant | Sodium hydride | 310 mg | [H-].[Na+]
reactant | methyl 4-phenyl-3-pyrrolcarboxylate | 1.20 g | C1(=CC=CC=C1)C=1C(=CNC1)C(=O)OC | C12H11NO2
reactant | 5-chloromethyl-2-(5-methyl-2-phenyl-4-oxazolylmethoxy)pyridine | 1.88 g | ClCC=1C=CC(=NC1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C17H15ClN2O2
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl 1-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethyl]-4-phenyl-1H-pyrrol-3-carboxylate | 2.74 g, yield: 96% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=N1)CN1C=C(C(=C1)C1=CC=CC=C1)C(=O)OC | C29H25N3O4
